US06914074B2
1,8-Dichloro-6-(4-methoxyphenyl)-2-naphthol
The title compound was prepared by reacting 3-bromo-1,8-dichloro-6-(4-methoxyphenyl)-2-naphthol (0.30 g, 0.754 mmol) with t-butyl lithium (1.75 mL of 1.7N solution, 3.0 mmol) and quenching with water according to the method use to prepare intermediate 84 to yield 0.19 g (79%) of a yellow solid. An analytical sample was further prepared by reverse phase preparative HPLC to yield the title compound as a light yellow solid: mp 132-134° C.; 1H NMR (DMSO-d6): δ 3.82 (3H, s), 7.06 (2H, d, J=8.77 Hz), 7.37 (1H, d, J=8.90 Hz), 7.77 (2H, d, J=8.75 Hz), 7.89-7.93 (2H, m), 8.15 (1H, d, J=1.85 Hz), 10.68 (1H, s); MS (ESI) m/z 317/319/321 (M−H)−.

reactant | 3-bromo-1,8-dichloro-6-(4-methoxyphenyl)-2-naphthol | 0.754 mmol, 0.30 g | BrC=1C(=C(C2=C(C=C(C=C2C1)C1=CC=C(C=C1)OC)Cl)Cl)O | C17H11BrCl2O2
reactant | t-butyl lithium | 3.0 mmol, 1.7N, 1.75 mL | C(C)(C)(C)[Li]
product | 1,8-Dichloro-6-(4-methoxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC(=C12)Cl)C1=CC=C(C=C1)OC)O | C17H12Cl2O2
